US07030139B2
14A: 4-{[2-(Dimethylamino)ethyl]amino}-N,N-diethyl-3-nitrobenzamide.
Following general procedure 2B, N,N-diethyl-4-fluoro-3-nitrobenzamide (0.534 g, 2.22 mmol) and N1,N1-dimethyl-1,2-ethanediamine (0.22 mL, 2.02 mmol) were stirred at 85° C. for 14 h. The crude product was purified through dissolution in 1 N HCl and extraction with Et2O (2×15 mL). The aqueous phase was adjusted to pH 11 with 5 N NaOH and then extracted with CH2Cl2 (4×15 mL). The combined CH2Cl2 phases were dried over MgSO4, filtered, and concentrated in vacuo to provide the title compound (0.560 g, 82%) as an orange oil. 1H-NMR (CD3OD): δ 8.22 (d, J=2.8 Hz, 1H), 7.56 (dd, J=8.4 Hz, J=2.8 Hz, 1H), 7.09 (d, J=8.4 Hz, 1H), 3.53–3.40 (overlapping t, J=6.4 Hz, and br s, 6H), 2.67 (t, J=6.4 Hz, 2H), 2.33 (s, 6H), 1.22 (t, J=7.6 Hz, 6H). MS (ESI) (M+H)+=309

reactant | N,N-diethyl-4-fluoro-3-nitrobenzamide | 2.22 mmol, 0.534 g | C(C)N(C(C1=CC(=C(C=C1)F)[N+](=O)[O-])=O)CC | C11H13FN2O3
reactant | N1,N1-dimethyl-1,2-ethanediamine | 2.02 mmol, 0.22 mL | CN(CCN)C | C4H12N2
product | 4-{[2-(Dimethylamino)ethyl]amino}-N,N-diethyl-3-nitrobenzamide | 0.560 g, 82% | CN(CCNC1=C(C=C(C(=O)N(CC)CC)C=C1)[N+](=O)[O-])C | C15H24N4O3
